US07354932B2
To a stirred solution of cis-1-acetoxy-4-chloro-2-cyclohexene (6.87 g, 39.4 mmol) in DMF (160 mL) was added sodium azide (5.29 g, 81.1 mmol) and the resultant mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into brine (160 mL) and diluted with diethyl ether (300 mL) and water (80 mL). The phases were separated and the organic phase was washed with brine (5×50 mL). The organic phase was dried (MgSO4), and concentrated to provide 6.13 g (85%) of trans-1-acetoxy-4-azido-2-cyclohexene as a pale red oil which was used without further purification.

reactant | cis-1-acetoxy-4-chloro-2-cyclohexene | 39.4 mmol, 6.87 g | C(C)(=O)O[C@@H]1C=C[C@@H](CC1)Cl | C8H11ClO2
reactant | sodium azide | 81.1 mmol, 5.29 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | brine | 160 mL | [Cl-].[Na+].O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | water | 80 mL | O | H2O
product | trans-1-acetoxy-4-azido-2-cyclohexene | 6.13 g, 85% | C(C)(=O)O[C@@H]1C=C[C@H](CC1)N=[N+]=[N-] | C8H11N3O2
